US04959361
A mixture of 5 g (19 mmol) of 3,8-dichloro-6(5H)phenanthridinone, 3,2 g (21 mmol) of barium oxide and 1.9 ml (21 mmol) of propargyl bromide in 40 ml of dimethylformamide was heated on the steam bath for 1 hour. After cooling, the product was precipitated by addition of water, filtered off and washed with water. It was dissolved in methylene chloride and the solution was dried and evaporated. The residue was chromatographed over 150 g of silica gel using 10% (v/v) of hexane in methylene chloride. The fractions containing the product were combined and evaporated. The solid residue was recrystallized from ethanol to give colorless crystals of 3,8-dichloro-5-(2-propynyl)-6(5H)-phenanthridinone with m.p. 248°-250°.

reactant | 3,8-dichloro-6(5H)phenanthridinone | 19 mmol, 5 g | ClC=1C=CC=2C3=CC=C(C=C3C(NC2C1)=O)Cl | C13H7Cl2NO
reactant | barium oxide | 21 mmol, 3,2 g | [O-2].[Ba+2]
reactant | propargyl bromide | 21 mmol, 1.9 ml | C(C#C)Br | C3H3Br
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 3,8-dichloro-5-(2-propynyl)-6(5H)-phenanthridinone | ClC=1C=CC=2C3=CC=C(C=C3C(N(C2C1)CC#C)=O)Cl | C16H9Cl2NO
